US05386058
A solution of 258 g 4,4'-dimethoxybenzophenone in 3000 ml warm toluene was added to 1600 ml 1.4M methylmagnesium bromide under nitrogen with stirring, over a one-hour period. The reaction temperature was kept below 40° C. After addition was complete, stirring was continued for one hour at 30°-40° C. and two hours at 50° C. The mixture was cooled to room temperature and poured into a stirred mixture of 400 ml acetic acid and 624 g ammonium chloride in 7200 ml deionized water. After gas evolution and exotherm had subsided, the organic (toluene) phase was separated and the aqueous phase was washed with 2×600 ml toluene. The combined toluene phases were washed with 1×2400 ml water, then placed in a flask and treated with a solution of 1470 ml deionized water and 1470 ml acetic acid at 50° C. for three hours to effect dehydration of the intermediate hydroxy compound. On cooling, the phases were separated and the toluene phase was washed with 2×1000 ml deionized water, then dried over magnesium sulfate. Filtration and removal of toluene gave a slightly wet cake which was triturated with 1400 ml diethyl ether, filtered and dried to give 222 g 1,1-di(p-methoxyphenyl)-ethene, m.p. 141°-143° C. whose structure was also confirmed by NMR.

reactant | 4,4'-dimethoxybenzophenone | 258 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methylmagnesium bromide | 1.4M, 1600 ml | C[Mg]Br
reactant | ammonium chloride | 624 g | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 1,1-di(p-methoxyphenyl)-ethene | 222 g | COC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)OC | C16H16O2
